US07326791B2
N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(2-methyl-5,6-dihydro-4H-cyclo-pentaimidazol-1-yl)-3-trifluoromethylbenzamide
Prepared analogously to Example 1d from 4-(2-methyl-5,6-dihydro-4H-cyclopentaimidazol-1-yl)-3-trifluoromethylbenzoic acid, PFTU, diisopropylethylamine, and (1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine in dimethylformamide. Yield: 64%; C24H21ClF3N5O (487.911); mass spectrum: (M−H)−=486/488 (chlorine isotope).

reactant | 4-(2-methyl-5,6-dihydro-4H-cyclopentaimidazol-1-yl)-3-trifluoromethylbenzoic acid | CC1=NC2=C(N1C1=C(C=C(C(=O)O)C=C1)C(F)(F)F)CCC2 | C15H13F3N2O2
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine | ClC1=CC2=C(NC(=N2)[C@H](C)N)C=C1 | C9H10ClN3
reactant | chlorine | ClCl | Cl2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(2-methyl-5,6-dihydro-4H-cyclo-pentaimidazol-1-yl)-3-trifluoromethylbenzamide | Yield: 64% | ClC1=CC2=C(NC(=N2)[C@H](C)NC(C2=CC(=C(C=C2)N2C(=NC3=C2CCC3)C)C(F)(F)F)=O)C=C1 | C24H21ClF3N5O
